US08802661B2
Preparation of (1S,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-benzyl 9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate. Intermediate 30
To a solution of (1S,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid (3 g, 6.54 mmol) and potassium carbonate (1.808 g, 13.08 mmol) in DMF (60 mL) was added (bromomethyl)benzene (0.816 mL, 6.87 mmol). The reaction mixture was heated up to 60° C. for 3 h. LCMS indicated the starting material was consumed. The reaction mixture was quenched with 60 ml water, a white precipitate was observed. The white solid was collected through filtration and washed with distilled water. The solid was dried in the air to provide the title compound as white solid (3.3 g, 92%). 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.42-7.28 (m, 5H), 5.27-5.01 (m, 2H), 3.18 (dt, J=11.22, 5.53 Hz, 1H), 2.40-2.09 (m, 3H), 1.91-1.73 (m, 2H), 1.72-0.78 (m, 21H), 0.95 (s, 3H), 0.91 (s, 3H), 0.84 (d, J=7.02 Hz, 3H), 0.80 (s, 3H), 0.75 (s, 3H), 0.73 (s, 3H), 0.73 (d, J=6.71 Hz, 3H).

reactant | (1S,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylic acid | 6.54 mmol, 3 g | O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(C)C)C(=O)O)C)C)(C)C | C30H50O3
reactant | potassium carbonate | 13.08 mmol, 1.808 g | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)benzene | 6.87 mmol, 0.816 mL | BrCC1=CC=CC=C1 | C7H7Br
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | (1S,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-benzyl 9-hydroxy-1-isopropyl-5a,5b,8,8,11a-pentamethylicosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 3.3 g, 92% | O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(C)C)C(=O)OCC5=CC=CC=C5)C)C)(C)C | C37H56O3
